US07846903B2
Under a nitrogen gas stream, 36.09 g (265.1 mmol) of pentaerythritol was dissolved in 210 ml of dry DMF, and 5.3 g (132.5 mmol) of 60% NaH was added little by little under ice cooling. The resultant was heated to room temperature and agitated for 1 hour, and 30.0 g (66.26 mmol) of phytanyl tosylate was added dropwise thereto, followed by washing with 55 ml of DMF. The resultant was heated to 80° C. and agitated for 4 hours, the resulting reaction solution was concentrated under reduced pressure, 500 ml of ether was added to the residual solution to perform extractive dissolution twice, the product was washed twice with saturated saline, and then it was dried over anhydrous magnesium sulfate. After the filtration, the resultant was concentrated, purified by silica gel column chromatography to obtain 6.3 g of mono-O-(3,7,11,15-tetramethylhexadecyl)pentaerythritol, which was in colorless, transparent, and somewhat viscous liquid form. The purity of the product determined by HPLC analysis was not lower than 99.5%. The results of NMR analysis are as shown below.

reactant | pentaerythritol | 265.1 mmol, 36.09 g | OCC(CO)(CO)CO | C5H12O4
reactant | NaH | 132.5 mmol, 5.3 g | [H-].[Na+]
reactant | phytanyl tosylate | 66.26 mmol, 30.0 g | S(=O)(=O)(OCCC(C)CCCC(C)CCCC(C)CCCC(C)C)C1=CC=C(C)C=C1 | C27H48O3S
solvent | DMF | 210 ml | CN(C)C=O | C3H7NO
product | mono-O-(3,7,11,15-tetramethylhexadecyl)pentaerythritol | 6.3 g | CC(CCOCC(CO)(CO)CO)CCCC(CCCC(CCCC(C)C)C)C | C25H52O4
